US09034880B2
Preparation of 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(2-methylpyrrolidin-1-yl)ethyl)-1H-pyrido[4,3-b]indole (Compound 307)
The title compound is prepared by following Method 8 by using 1-(2-bromoethyl)-2-methylpyrrolidine, 4-chlorophenylhydrazine hydrochloride, triethylamine and N-methyl-4-piperidone

reactant | 1-(2-bromoethyl)-2-methylpyrrolidine | BrCCN1C(CCC1)C | C7H14BrN
reactant | 4-chlorophenylhydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
reactant | N-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(2-methylpyrrolidin-1-yl)ethyl)-1H-pyrido[4,3-b]indole | ClC1=CC=2C3=C(N(C2C=C1)CCN1C(CCC1)C)CCN(C3)C | C19H26ClN3
